data/oMe_Silver.jsonl
{"reaction_id": "NR-334_1-C(C)(C)C_2-CC_3-CC_4-CC","level": "medium","name": "Ritter Reaction","reactants_smiles": ["N#CC(C)(C)C","OC(CC)(CC)CC"],"products_smiles": ["C(=O)(NC(CC)(CC)CC)C(C)(C)C"],"conditions": "H2SO4, H2O","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[OH2+]C(CC)(CC)CC","step_weight": 0,"rationale": "Protonation of the alcohol oxygen increases its leaving group ability by converting OH into water, a much better leaving group under acidic conditions."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "[C+](CC)(CC)CC","step_weight": 0,"rationale": "Loss of water generates a carbocation stabilized by adjacent alkyl groups through hyperconjugation and inductive effects."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(#[N+]C(CC)(CC)CC)C(C)(C)C","step_weight": 0,"rationale": "The nitrile nitrogen, being nucleophilic, attacks the carbocation, forming a nitrilium ion stabilized by resonance with the triple bond."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(=NC(CC)(CC)CC)([OH2+])C(C)(C)C","step_weight": 0,"rationale": "Water, activated by the acidic medium, adds to the electrophilic carbon of the nitrilium ion, forming a protonated imidate intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=NC(CC)(CC)CC)(O)C(C)(C)C","step_weight": 0,"rationale": "Deprotonation of the protonated imidate oxygen restores neutrality, yielding the neutral imidic acid form."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(NC(CC)(CC)CC)C(C)(C)C","step_weight": 0,"rationale": "Acid-catalyzed tautomerization converts the imidic acid to the more thermodynamically stable amide via proton transfers."}],"description": "Under strong acid, the alcohol is protonated and loses water to form a stable carbocation. The nitrile attacks, forming an iminium intermediate, which is then hydrated and tautomerizes to the amide. Acid catalysis drives each step by stabilizing intermediates and activating electrophiles."}
{"reaction_id": "NR-310_1-C(C)(C)C_2-C_3-S(=O)(=O)c1ccccc1_4-c1ccc(F)cc1_5-c1ccc(Cl)cc1_6-OC(=O)OC_7-P(c1ccc(F)cc1)(c1ccc(F)cc1)c1ccc(F)cc1","level": "medium","name": "Tsuji-Trost Reaction","reactants_smiles": ["C(C)(C)CC(C)=C(S(=O)(=O)c1ccccc1)C(c1ccc(F)cc1)(c1ccc(Cl)cc1)(OC(=O)OC)","N#CCC#N","[Pd]"],"products_smiles": ["C(C)(C)CC(C)=C(S(=O)(=O)c1ccccc1)C(c1ccc(F)cc1)(c1ccc(Cl)cc1)C(C#N)C#N"],"conditions": "Ligand, Base (e.g. NaH), Pd","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "C(C(C)(C)C)(C)=C(S(=O)(=O)c1ccccc1)C([Pd](OC(=O)OC)(P(c1ccc(F)cc1)(c1ccc(F)cc1)c1ccc(F)cc1)(P(c1ccc(F)cc1)(c1ccc(F)cc1)c1ccc(F)cc1))(c1ccc(F)cc1)(c1ccc(Cl)cc1)","step_weight": 0,"rationale": "Pd(0) coordinates to the allylic system and undergoes oxidative addition due to the good leaving group ability and stabilization of the resulting π-allyl–Pd(II) complex by conjugation."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[CH-](C#N)C#N","step_weight": 0,"rationale": "The base deprotonates malononitrile, as the α-proton is highly acidic due to strong electron-withdrawing cyano groups stabilizing the resulting carbanion."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "N#CC(C#N)C(c1ccc(F)cc1)(c1ccc(Cl)cc1)/C1(S(=O)(=O)c1ccccc1)[Pd](P(c1ccc(F)cc1)(c1ccc(F)cc1)c1ccc(F)cc1)(P(c1ccc(F)cc1)(c1ccc(F)cc1)c1ccc(F)cc1)C1(C)(C(C)(C)C)","step_weight": 0,"rationale": "The nucleophilic carbanion attacks the electrophilic π-allyl–Pd complex at the less hindered terminus, favored by orbital overlap and reduced steric hindrance."},{"step": 4,"type": "dissociation","subtype": "dissociation","intermediate_smiles": "C(C)(C)CC(C)=C(S(=O)(=O)c1ccccc1)C(c1ccc(F)cc1)(c1ccc(Cl)cc1)C(C#N)C#N","step_weight": 0,"rationale": "Product dissociates via reductive elimination, regenerating Pd(0) due to the thermodynamic stability of the C–C bond and the catalyst turnover requirement."}],"description": "In the Tsuji–Trost reaction, Pd(0) first undergoes oxidative addition to the allylic substrate, forming a π-allyl–Pd complex. The base deprotonates malononitrile to generate a stabilized nucleophile, which attacks the π-allyl complex. Reductive elimination releases the substituted product and regenerates Pd(0)."}
